US08604061B2
In analogy to example 162d (S)-2,2-dimethyl-4-((E)-2-phenyl-but-1-enyl)-oxazolidine-3-carboxylic acid tert-butyl ester was reacted with hydrogen chloride to give (E)-(S)-2-amino-4-phenyl-hex-3-en-1-ol. Yellow crystalline solid.

reactant | (S)-2,2-dimethyl-4-((E)-2-phenyl-but-1-enyl)-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C(/CC)\C1=CC=CC=C1)(C)C | C20H29NO3
reactant | hydrogen chloride | Cl | ClH
product | (E)-(S)-2-amino-4-phenyl-hex-3-en-1-ol | N[C@H](CO)\C=C(/CC)\C1=CC=CC=C1 | C12H17NO
